US07470713B2
2-{4-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-5-methyl-3H-imidazole-4-carboxylic acid ethyl ester:
2-(4-Iodo-2-methoxy-pyridin-3-yl)-5-methyl-3H-imidazole-4-carboxylic acid ethyl ester (0.020 g, 0.052 mmol) was dissolved in acetic acid (1 mL) and concentrated hydrochloric acid (1 mL) and this mixture was stirred at reflux for 2 hours. The mixture was then evaporated and the residue was dissolved in N,N-dimethylformamide (2 mL) and treated with triethylamine (˜22 μL, 0.155 mmol) and the hydrochloric acid salt of (S)-2-amino-1-[3-chlorophenyl]ethanol (0.020 g, 0.096 mmol). The mixture was heated at 65° C. overnight, then the solvent was evaporated and the residue was purified by Prep HPLC (ammonium acetate/acetonitrile/water) to give the title compound (0.003 g, 14%) as a white solid. HPLC 100% (220 nm), LCMS (+ESI, M+H+) m/z 417; 1H NMR (400 MHz, methanol-d4) δ (ppm) (mixture of tautomers): 1.40 and 1.43 (3H, 2t, J=7.1 Hz), 2.49 and 2.61 (3H, 2s), 3.61-3.72 (2H, m), 4.35 and 4.39 (2H, q, J=7.1 Hz), 4.95-4.97 (1H, m), 6.21 and 6.23 (1H, 2d, J=7.6 Hz), 7.19-7.55 (5H, m).

reactant | 2-(4-Iodo-2-methoxy-pyridin-3-yl)-5-methyl-3H-imidazole-4-carboxylic acid ethyl ester | 0.052 mmol, 0.020 g | C(C)OC(=O)C=1NC(=NC1C)C=1C(=NC=CC1I)OC | C13H14IN3O3
reactant | hydrochloric acid | 1 mL | Cl | ClH
reactant | triethylamine | 0.155 mmol, ˜22 μL | C(C)N(CC)CC | C6H15N
reactant | (S)-2-amino-1-[3-chlorophenyl]ethanol | 0.096 mmol, 0.020 g | NC[C@@H](O)C1=CC(=CC=C1)Cl | C8H10ClNO
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 2-{4-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-5-methyl-3H-imidazole-4-carboxylic acid ethyl ester | 0.003 g, 14% | C(C)OC(=O)C=1NC(=NC1C)C=1C(NC=CC1NCC(O)C1=CC(=CC=C1)Cl)=O | C20H21ClN4O4
